US04886816
Ethyl 2-[(2,2,3-trifluoro-1,4-benzodioxan-5-yl)methylene]-4-acetoxy-acetoacetate
50 mmol of 5-(butyliminomethyl-2,2,3-trifluoro-1,4-benzodioxane and 50 mmol of ethyl 4-acetoxy-acetoacetate are stirred in 80 ml of acetic anhydride for 24 hours. The mixture is hydrolyzed with about 1 l of ice-water and the oil which has separated out is separated off, taken up in methylene chloride, dried and used as the crude product.

reactant | butyliminomethyl-2,2,3-trifluoro-1,4-benzodioxane | C(CCC)N=CC1(OC2=C(OC1(F)F)C=CC=C2)F | C13H14F3NO2
reactant | ethyl 4-acetoxy-acetoacetate | 50 mmol | C(C)(=O)OCC(CC(=O)OCC)=O | C8H12O5
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-[(2,2,3-trifluoro-1,4-benzodioxan-5-yl)methylene]-4-acetoxy-acetoacetate | FC1(C(OC2=C(O1)C=CC=C2C=C(C(=O)OCC)C(=O)COC(C)=O)F)F | C17H15F3O7
